US07345180B2
(S)-1-(2-Chloroacetyl)pyrrolidine-2-carbonitrile
In a similar procedure as employed in a patent (WO98/19998), L-proline amide (10.0 g) was reacted with chloroacetyl chloride (7.0 ml) and then subjected to dehydration reaction to give the title compound (7.7 g, yield (Y.:51%).

reactant | L-proline amide | 10.0 g | N1[C@H](C(=O)N)CCC1 | C5H10N2O
reactant | chloroacetyl chloride | 7.0 ml | ClCC(=O)Cl | C2H2Cl2O
product | (S)-1-(2-Chloroacetyl)pyrrolidine-2-carbonitrile | ClCC(=O)N1[C@@H](CCC1)C#N | C7H9ClN2O
